US07141586B2
Lithium hydroxide hydrate (1.37 g, 33 mmol) was added to a solution of ethyl 2-[3-(ethylsulfanyl)phenoxy]-5-fluoronicotinate (4.21 g, 13 mmol) in tetrahydrofuran (50 ml) and water (30 ml). The mixture was stirred for 4 h, then the volatile solvent was removed under reduced pressure and the residue partitioned between diethyl ether and 2N hydrochloric acid. The organic phase was washed with water, dried over MgSO4 and the solvent removed under reduced pressure. The residue was purified by flash column chromatography using dichloromethane:methanol:acetic acid (95:5:0.5) as eluant to give 2-[3-(ethylsulfanyl)phenoxy]-5-fluoronicotinic acid (3.45 g) as a white solid.

reactant | Lithium hydroxide hydrate | 33 mmol, 1.37 g | O.[OH-].[Li+]
reactant | ethyl 2-[3-(ethylsulfanyl)phenoxy]-5-fluoronicotinate | 13 mmol, 4.21 g | C(C)SC=1C=C(OC2=C(C(=O)OCC)C=C(C=N2)F)C=CC1 | C16H16FNO3S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 2-[3-(ethylsulfanyl)phenoxy]-5-fluoronicotinic acid | 3.45 g | C(C)SC=1C=C(OC2=C(C(=O)O)C=C(C=N2)F)C=CC1 | C14H12FNO3S
